US04680391
A mixture of 130 mg (0.82 mM) N-acetyl-4-methylthioazetidinone and 200 mg (0.93 nM) 80% m-chloroperbenzoic acid in 5 ml methylene chloride was stirred at room temperature 5 minutes. After removing the solvent in vacuo. The residue was chromatographed on 2-2000μ silica gel plates in hexane/ethyl acetate to yield 57 mg (40%) of 1-acetyl-4-methylsulfinylazetidine-2-one.

reactant | N-acetyl-4-methylthioazetidinone | 0.82 mM, 130 mg | C(C)(=O)N1C(CC1SC)=O | C6H9NO2S
reactant | m-chloroperbenzoic acid | 0.93 nM, 200 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-acetyl-4-methylsulfinylazetidine-2-one | 57 mg, 40% | C(C)(=O)N1C(CC1S(=O)C)=O | C6H9NO3S
